Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Atrial fibrillation with RVR
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ man with ESRD, diastolic and systolic CHF (EF 
___ and chronic atrial fibrillation on warfarin, chronic 
UTIs on bladder dwells transferred from dialysis for hypotension 
in the setting of atrial flutter with RVR. He was in 
tachyarrhythmia 45 min into his  HD session and was asymptomatic 
and was given 2L NS without improvement in hr. His medications 
were recently changed from metoprolol-ER 100mg bid to 
propranolol-ER 60mg daily, and his wife reports that he has been 
tachycardic for the past week (per ER dash). He was referred by 
___ facility to the ED for further management, dialysis session 
was not completed. He denies any chest pain, shortness of 
breath, palpitations, abdominal pain, nausea, vomiting. No 
recent diarrhea. Good p.o. intake. No dizziness or 
lightheadedness. Of note He was admitted earlier this month for 
Afib with RVR related to hypovolemia and he was treated w metop.

In the ED intial vitals were: 97.5 140 100/79 20 98%   
- Labs were significant for  K 5.8  Cr 6.7 INR 4.2 UA showing 
infection
- Patient was given dilt 20 IV, dilt 30PO, ceftx, lasix40
given IVF (2L) when he was hypotensive to the SBPs 80, 
asymptomatic (2 L total)

On arrival to the floor he denied cp or sob.
 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On  

dialysis since ___. Has LUE AVF.  
- Afib, on Coumadin  
- HTN  
- CHF (outpatient TTE ___ with LVEF ___ and subsequent  
recovery with EF 48% on office study ___  
- Gout  
- PVD  
- Hypothyrodism  
- Cricopharyngeal dysphagia ___ neck fracture  
- Sleep apnea not on home CPAP  
- Anemia of chronic disease ___ renal dysfunction  
- NIDDM, resolved with weight loss, A1C<5% in ___  
- H/O autonomic dysfunction, remitted (no longer on midodrine  
and fludrocortisone). Persistent volume-sensitive BP regulation. 
 
 
Social History:
___
Family History:
HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals - 97.4 101/64 104kg 100%2L nc (then switched to ra) hr 
139 (on tele was low 100s)  
GENERAL: keeps falling asleep while Im trying to talk to him. 
oriented x 3
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, 
CARDIAC: irreg irreg
LUNG: decr breath sounds
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: trace edema

DISCHARGE PHYSICAL EXAM:
VS: T=97.5-98.0 BP=108-114/67-75 ___ O2sat=100%2L 
NC Wt. 100 kg (stand); 104.5 bed weight on ___
General: NAD, ___. 
HEENT: NCAT, EOMi  
Neck: Supple, mildly eleveted JVD  
CV: irregular rythm, regular rate, S1/S2 are normal, no murmurs 
Lungs: bibasilar crackles, L>R, anterior lung fields CTAB
Abdomen: Bowel sounds normal, Soft, distended, NTTP, 
Ext: Mild ankle edema. AV fistula on LUE with palpable thrill
PULSES:  1+ radial and DP pulses bilaterallly
Neuro: ___ x3. Speech fluent. Moving all extremities.
 
Pertinent Results:
ADMISSION LABS:
___ 02:15PM BLOOD WBC-8.1 RBC-2.86* Hgb-9.7* Hct-30.3* 
MCV-106* MCH-34.1* MCHC-32.2 RDW-13.7 Plt ___
___ 02:15PM BLOOD ___ PTT-52.6* ___
___ 02:15PM BLOOD Glucose-93 UreaN-60* Creat-6.7*# Na-140 
K-5.8* Cl-102 HCO3-27 AnGap-17
___ 02:15PM BLOOD Calcium-8.9 Phos-3.4 Mg-2.4
___ 04:00AM BLOOD TSH-7.2*
___ 02:19PM BLOOD Lactate-1.7
___ 02:25PM URINE Color-Straw Appear-Hazy Sp ___
___ 02:25PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 02:25PM URINE RBC-39* WBC->182* Bacteri-MOD Yeast-NONE 
Epi-0

DISCHARGE LABS:
___ 05:30AM BLOOD WBC-5.7 RBC-2.73* Hgb-9.3* Hct-29.1* 
MCV-107* MCH-34.2* MCHC-32.1 RDW-13.8 Plt ___
___ 05:30AM BLOOD ___ PTT-40.3* ___
___ 05:30AM BLOOD Glucose-90 UreaN-24* Creat-3.7*# Na-138 
K-4.1 Cl-99 HCO3-27 AnGap-16
___ 05:30AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.1
___ 04:00AM BLOOD TSH-7.2*

MICRO:
___ 3:17 pm URINE      TAKEN FROM ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH.

 
Brief Hospital Course:
___ y/o p with PMH of ESRD, recurrent supraventricular 
tachycardia, diastolic and systolic heart failure( ___, 
ECHO ___, type II DM, hypertension, anemia of chronic 
disease, sleep apnea, autonomic disfunction, hypothyroidism was 
transferred from dialysis for hypotension in setting of 
asymptomatic supraventricular tachycardia (atrial flutter with 
2:1 block.

#Chronic supraventricular tachycardia, primarily AF on warfarin: 
Transferred from dialysis unit due to hypotension in setting of 
a fib with RVR.  He was given dilt in the ER and initially 
hypotensive SBPs ___. Of note, he was previously consulted with 
SVT both in ___ and inpatient 
___ then clasiffied as persistent AF, treated 
with BB and fluids for hypotension at that time. Diltiazem 
previously induced hypotension, he was swiched from metoprolol 
to propranolol ER qD 60mg because of its  liver metabolism 
(patient with ESRD on HD).  In the ER, EKG showed atrial flutter 
with 2:1 block and ventricular rate 148. He was given dilt in 
the ER and initially hypotensive SBPs ___.
 
Because of multiple comorbidities and the fact that the patient 
is asymptomatic did not perform EP examination of LA, which 
requires full anesthesia.  Patient was started on metoprolol 50 
QID due to afib w/ RVR.  Patient continued to be tachycardic - 
aflutter vs afib with RVR while at inpatient dialysis unit.  
Received 5mg IV metoprolol, became hypotensive to ___, given 
250NS bolus w/ improvement in pressures.  Rate control also 
improved.  Patient was switched from metoprol back to 
propranolol per outpatient cardiologist, dose of propranolol was 
increased from 60 to 80 mg daily.  Was monitored on Tele. 
CHADS2=3 and is on coumadin at home.  However patient was found 
to have supra therapeutic INR, thus coumadin was initially held. 
 He was restarted on his home dose on ___ (home dose: 3 
mg MoWeFri alternating with 2mg ___.  His INRs are managed 
by the nephrologist at his outpatient dialysis unit (___ 
___).  Patient's rates and pressures improved with above 
interventions and was discharged back to home.  
 
# sCHF:  Systolic CHF reveled on outpatient TTE ___ with 
LVEF ___.  At ___ patient presented with CHF 
decompensation described as cryptogenic in a setting of "viral 
infection". Patients HF might be multifactoral including ESRD, 
rSVT, HTN. He has moderate to to right pleural effusion. 
Effusion was described as chronic in note from ___. 
Patient was on lasix 80mg prior to admition. He denies dyspnea 
and chest pain but his physical activity is limited(most of the 
time he sits in chair on lie in bed.) so exrtional dyspnea can 
not be excluded. He denies orthopnea.  Patient was continued on 
his home lasix dose.

#Hyperkalemia: likely related to ESRD.  Improved after HD 
sessions on ___ and ___.

#WBC in urine:  Patient chronically colonized, receives 
intermittent bladder irrigation with neomycin-polymyxin as 
outpatient.  Received 1x dose of ceftriaxone in ED.  Antibiotics 
not continued as urine culture negative. 

# Hypothyroidism: Patient reports that he has hypothyroidism for 
___ years. He has extensive diaphoresis, feels weak and fatigue. 
He denies hand tremor, heat intolerance, muscle weakness. He was 
lethargic what could be reffered also to other 
conditions(hypotension, hyperkaliemia). His TSH was 7.2.  Did 
not increase home dose of levothyroxine in setting of admission 
for tachyarrythmia.  Would recommend increasing dose as 
outpatient. 

# Gout: Continued on home allopurinol. 

#ESRD on HD: access LUE fistula.  Went to HD on ___ and ___.  
Will continue as outpatient at ___.  Next session on 
___.  Continued on home dose of lasix.

#Hypertension
Patient has hypertension since ___ years. He had multiple 
epsiodes of hypotension in the past. We will continue his home 
medication with increased dose of propranolol. 

#Anemia of chronic disease
Patient has RBC=2,8; Hgb 9,5; MCV 107; MCH 34 consistent with 
megaloblastic anemia. His folate at ___ was 18,2; his vit 
B ___ was 1450 so he does not need require suplementaion. 
 Receives EPO 4000 Units SQ q ___ 

#MIDDM: not on any diabetes medications.  Fingersticks were 
monitored.

#Hyperparathyroidism
Patient has Ca 9.4 and eleveted P to 7.7, which in setting of 
ESRD are consistent with type II parathyroidism.  Was kept on 
low phospate diet, continued on cinacalcet.

TRANSITIONAL ISSUES:
#Chronic supraventricular tachycardia on warfarin- patient 
presented with tachyarrhythmia and hypotension.  Treated with 
beta-blockers and IVF.  Patient's rates improved with above 
interventions.  His home propranolol dose was increased to 80mg 
per day (from 60mg).  Would recommend continuing at this dose 
and titrating pending rate control.

#Chronic UT colonization
Mr ___ urine cultures are negative and looks similar to 
priors, in particular from this past ___ when his urine culture 
was negative, which suggests chronic inflammation without 
bacterial colonization. No antibiotic treatment is necessary 
beyond current management with Neosporin irrigation and 20 ml 
post-cath dwell.

# Hypothyroidism:  His TSH was 7.2.  Would recommend increasing 
dose in outpatient setting.  Was not done while inpatient in 
setting of acute tachyarrythmia with associated hypotension.

# Anticoagulation: patient's INR was supra therapeutic on 
admission.  Warfarin restarted once INR came down to 1.9.  
Anticoagulation is managed by his nephrologist at outpatient 
dialysis.

# CODE STATUS: FULL CODE
# CONTACT - Wife: ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol 50 mg PO DAILY 
2. Cinacalcet 30 mg PO DAILY 
3. Clotrimazole Cream 1 Appl TP BID 
4. Docusate Sodium 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Nephrocaps 1 CAP PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Sucralfate 1 gm PO TID 
11. Furosemide 80 mg PO 4X/WEEK (___) 
12. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
13. Propranolol LA 60 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol 50 mg PO DAILY 
2. Cinacalcet 30 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Nephrocaps 1 CAP PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
10. Sucralfate 1 gm PO TID 
11. Clotrimazole Cream 1 Appl TP BID 
12. Warfarin 3 mg PO 3X/WEEK (___) 
13. Warfarin 2 mg PO 4X/WEEK (___) 
14. Propranolol LA 80 mg PO DAILY 
RX *propranolol 80 mg 1 capsule,extended release 24 hr(s) by 
mouth Daily Disp #*30 Capsule Refills:*0
15. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial Flutter
Atrial fibrillation on warfarin
End-stage Renal Disease on hemodialysis
Hypotension

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___,
  
It was a pleasure to us caring for you during your admission to 
___. You were admitted for 
evaluation of of fast and irregular rhythm and low blood 
pressure.  You were given medications to slow your heart rate 
and IV fluids to help with your blod pressure.  You improved 
clinically and it was determined you were safe to be discharged 
to home with services.  The dose of your propanolol was 
increased to 80 mg per day.  You should take your medications as 
prescribed. Please keep your follow up appointments as 
scheduled.  Should you develop chest pain, palpitations or 
progressive shortness of breath, please seek evaluation at a 
medical facility or your nearest emergency department. 

 
Followup Instructions:
___